US06900201B2
To a solution of 4-[5-(5-Nitro-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile (0.79 mmol) in 10 mL of methanol was added 10 mL of ethyl acetate and 30 mg of platinum (IV) oxide. After shaking under 50 psi of H2 for 3 h, the mixture was filtered through a pad of Celite and concentrated in vacuo, affording 0.25 g of 4-[5-(5-Amino-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile.

reactant | 4-[5-(5-Nitro-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile | 0.79 mmol | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C#N)C=C1 | C19H11N5O3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | platinum (IV) oxide | 30 mg | [Pt](=O)=O
product | 4-[5-(5-Amino-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile | 0.25 g | NC=1C=CC(=NC1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C#N)C=C1 | C19H13N5O
